US07202363B2
3-bromothieno[3,2-c]pyridin-4(5H)-one
A suspension of (2E)-3-(4-bromo-2-thienyl)acrylic acid (commercially available, 50.2 g, 0.215 mol) in dichloromethane (150 mL) was treated with DMF (2 drops) and SOCl2 (23 mL, 0.315 mol), stirred at room temperature for 48 hours, heated to reflux for 2 hours, and concentrated. The residue was dissolved in dioxane (100 mL) and added to a vigorously stirred solution of NaN3 (25 g, 0.384 mol) in water (100 mL) and dioxane (100 mL) over 10 minutes. The resulting mixture was stirred at room temperature for 2.5 hours and extracted twice with 150 mL of ethyl acetate. The combined organics were washed with water and brine, dried (Na2SO4), filtered, and concentrated. A solution of the residue in dichloromethane (150 mL) was added dropwise over 5 hours to boiling diphenyl ether (150 mL) in a 3-neck flask fitted with 2 air-cooled condensers. The mixture was stirred at reflux for an additional 1 hour, cooled to room temperature, and concentrated. The residue was suspended in diethyl ether (100 mL) and hexanes (200 mL), cooled, and filtered. The filter cake was washed with additional diethyl ether/hexanes and dried to provide 37.4 g of the desired product. MS (ESI(+)) m/e 231 (M+H)+.

reactant | (2E)-3-(4-bromo-2-thienyl)acrylic acid | BrC=1C=C(SC1)/C=C/C(=O)O | C7H5BrO2S
reactant | SOCl2 | 0.315 mol, 23 mL | O=S(Cl)Cl | Cl2OS
reactant | NaN3 | 0.384 mol, 25 g | [N-]=[N+]=[N-].[Na+]
reactant | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 3-bromothieno[3,2-c]pyridin-4(5H)-one | 37.4 g | BrC1=CSC2=C1C(NC=C2)=O | C7H4BrNOS
